US07659263B2
To a solution of methyl 4H-thieno[3,2-b]pyrrole-2-carboxylate (12 g, 68 mmol) and cyclohexanone (21 ml, 204 mmol) in methanol (300 ml) was added 28% sodium methoxide methanol solution (100 ml) and the mixture was stirred with heating under reflux for 2 days. The reaction mixture was cooled to room temperature and concentrated under reduced pressure. 6N Hydrochloric acid (100 ml) was added and the precipitated solid was collected by filtration. The solid was washed successively with water (300 ml×5) and n-hexane (300 ml×3), and dried under reduced pressure to give 6-(cyclohex-1-enyl)-4H-thieno[3,2-b]pyrrole-2-carboxylic acid (17 g, yield 100%).

reactant | methyl 4H-thieno[3,2-b]pyrrole-2-carboxylate | 68 mmol, 12 g | S1C(=CC=2NC=CC21)C(=O)OC | C8H7NO2S
reactant | cyclohexanone | 204 mmol, 21 ml | C1(CCCCC1)=O | C6H10O
reactant | sodium methoxide methanol | 100 ml | CO.C[O-].[Na+]
solvent | methanol | 300 ml | CO | CH4O
product | 6-(cyclohex-1-enyl)-4H-thieno[3,2-b]pyrrole-2-carboxylic acid | 17 g, yield 100% | C1(=CCCCC1)C=1C2=C(NC1)C=C(S2)C(=O)O | C13H13NO2S
